US05120855
DL-hydroxyphenylglycine HCL (10.0 g) is reacted with (+)-phenylethanesulfate NH4 (9.98 g) in water (10 ml) to form two diastereomers of DL-hydroxyphenylglycine (+)-phenylethanesulfate. DL-hydroxyphenylglycine (0.82 g) is added to the reaction mixture and the mixture is heated in an autoclave at 140° C. for 12 hours. After completion of the reaction, 50% aqueous solution of (+)-phenylethanesulfate (1.8 g) and water (10 ml) are added to the reaction mixture and the mixture is stirred at room temperature for 1 hour. The crystals thus formed are filtered off and dried to give D-hydroxyphenylglycine (+)-phenylethanesulfate (17.73 g)·[a]D25 -76.5° (c=1, CH3OH), Optical purity 97.3%.

reactant | hydroxyphenylglycine HCL | 10.0 g | Cl.ON(CC(=O)O)C1=CC=CC=C1
solvent | water | 10 ml | O | H2O
product | hydroxyphenylglycine | ON(CC(=O)O)C1=CC=CC=C1 | C8H9NO3
